US06579983B1
2-Cyano-3-dimethylamino-1-thien-3-ylpropen-1-one was prepared from 3-cyanoacetyl thiophene (7.64 g,50.56 mmol) and dimethylformamide dimethylacetal (20 mL, 152 mmol) as a yellow solid (6.6 g), m.p. 134°. δH (CDCl3) 8.27 (1H, dd, J 3.0, 1.3 Hz), 8.00 (1H, s), 7.61 (1H, dd, J 5.0 Hz), 7.27 (1H, dd, J 5.0,3.0 Hz), 3.48 (3H, s) and 3.29 (3H, s).

reactant | 3-cyanoacetyl thiophene | 50.56 mmol, 7.64 g | C(#N)CC(=O)C1=CSC=C1 | C7H5NOS
reactant | dimethylformamide dimethylacetal | 152 mmol, 20 mL, 6.6 g | COC(N(C)C)OC | C5H13NO2
product | 2-Cyano-3-dimethylamino-1-thien-3-ylpropen-1-one | C(#N)C(C(=O)C1=CSC=C1)=CN(C)C | C10H10N2OS
